US06727037B2
To 16.1 g of dimethylformamide was dropwise added 33.7 g of phosphoryl chloride while stirring under ice cooling. Further, 30 ml of a solution of 41.5 g of 2-(ethylphenylamino)ethyl acetate in dimethylformamide was added dropwise, and this mixture was stirred for 5 hours at 40° C. This reaction solution was poured into 1,000 ml of sodium acetate aqueous solution. An organic layer was extracted with ethyl acetate, washed with water, and then dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting coarse product was purified by silica gel column chromatography to obtain 35.3 g of 2-(ethyl(4-formylphenyl)amino)ethyl acetate.

reactant | phosphoryl chloride | 33.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(ethylphenylamino)ethyl acetate | 41.5 g | C(C)(=O)OCCN(C1=CC=CC=C1)CC | C12H17NO2
reactant | sodium acetate | 1,000 ml | C(C)(=O)[O-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 16.1 g | CN(C=O)C | C3H7NO
product | 2-(ethyl(4-formylphenyl)amino)ethyl acetate | 35.3 g | C(C)(=O)OCCN(C1=CC=C(C=C1)C=O)CC | C13H17NO3
